*$
* INA322
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA322
* Date: 03JAN2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS174B - DECEMBER 2000 - REVISED FEBRUARY 2006
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
*
* Final 1.0  
* Release to Web
*
*****************************************************************************
 Connections: non-inverting input
*              |   inverting input
*		       |   |   positive power supply
*              |   |   |  negative power supply
*              |   |   |  |  output
*              |   |   |  |  |   reference
*              |   |   |  |  |   |   gainset
*              |   |   |  |  |   |   |
*              |   |   |  |  |   |   |
.SUBCKT INA322 IN+ IN- V+ V- OUT REF RG   
*****************************************************************************
R2         A1OUT A2NEG  40K 
R1         A2NEG A2OUT  160K  
R4         A1NEG A1OUT  40K  
R3         REF A1NEG  160K  
XA1        IN- A1NEG V+ V- A1OUT OPAMP12
XA2        IN+ A2NEG V+ V- A2OUT OPAMP12
XA3        A2OUT RG V+ V- OUT OPAMP3
.ENDS INA322
*****************************************************************************
.SUBCKT OPAMP12   1 2 3 4 5
*****************************************************************************
c1   11 12 785.88E-15
c2    6  7 1.500E-12
css  10 99 1.000E-30
dc    5 53 dy
de   54  5 dy
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 6.3662E9 -1E3 1E3 6E9 -6E9
ga    6  0 11 12 6.2832E-6
gcm   0  6 10 99 6.2832E-12
iss   3 10 dc 300.00E-9
hlim 90  0 vlim 1K
m1   11  2 10 3 mp l=2E-6 w=20E-6 m=1
m2   12  1 10 3 mp l=2E-6 w=20E-6 m=1
r2    6  9 100.00E3
rd1   4 11 159.15E3
rd2   4 12 159.15E3
ro1   8  5 50
ro2   7 99 25
rp    3  4 357.14E3
rss  10 99 666.67E6
vb    9  0 dc 0
vc    3 53 dc .8047
ve   54  4 dc .8047
vlim  7  8 dc 0
vlp  91  0 dc 12
vln   0 92 dc 12
.MODEL mp pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.MODEL dx D(Is=800.00E-18)
.MODEL dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.ENDS OPAMP12
*****************************************************************************
.SUBCKT OPAMP3   1 2 3 4 5
*****************************************************************************
c1   11 12 385.88E-15
c2    6  7 2.00E-12
css  10 99 1.000E-30
dc    5 53 dy
de   54  5 dy
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 6.3662E9 -1E3 1E3 6E9 -6E9
ga    6  0 11 12 6.2832E-6
gcm   0  6 10 99 6.2832E-12
iss   3 10 dc 450.00E-9
hlim 90  0 vlim 1K
m1   11  2 10 3 mp l=1E-6 w=10E-6 m=1
m2   12  1 10 3 mp l=1E-6 w=10E-6 m=1
r2    6  9 100.00E3
rd1   4 11 159.15E3
rd2   4 12 159.15E3
ro1   8  5 50
ro2   7 99 25
rp    3  4 357.14E3
rss  10 99 666.67E6
vb    9  0 dc 0
vc    3 53 dc .8047
ve   54  4 dc .8047
vlim  7  8 dc 0
vlp  91  0 dc 12
vln   0 92 dc 12
.MODEL mp pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.MODEL dx D(Is=800.00E-18)
.MODEL dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.ENDS OPAMP3
*
