*$
* INA326
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA326
* Date: 19DEC2022
* Model Type: All IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS222D - NOVEMBER 2001 - REVISED NOVEMBER 2004
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Final 1.1
* 1. Updated PSpice symbol
* 2. Updated with Unique Subckt name.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following features are modeled:
*    GAIN AND PHASE
*    SLEW RATE
*    OUTPUT SWING
*    OUTPUT CURRENT THRU THE SUPPLY RAILS
*    OUTPUT CURRENT LIMIT
*    OUTPUT IMPEDANCE
*    CMRR W FREQUENCY EFFECTS
*    PSRR W FREQUENCY EFFECTS
*    INPUT CAPACITANCE
*    INPUT VOLTAGE NOISE THAT VARIES W GAIN AND R1 AND R2 VALUES
*    INPUT CURRENT NOISE
*    INPUT COMMON MODE VOLTAGE RANGE
*    PROPER SWING LIMITS ON THE R2 NODE
*    INTERNALY GENERATED RIPPLE THAT VARIES W GAIN AND R1 AND R2 VALUES
*    IQ INCL CHANGE W VCC AND TEMPERATURE
*    INPUT BIAS CURRENT
*    INPUT AND OUTPUT CLAMP DIODES
*    TEMP RANGE -40 TO +85 DEG C
*****************************************************************************
* PINOUT R1_1 IN- IN+ V- R2 VO V+ R1_2
* PINOUT 1    2   3   4  5  6  7  8
.SUBCKT INA326 3 2 7 4 6 1 8 5
*****************************************************************************
.MODEL D D
.MODEL DIN D
.MODEL DVN D KF=1.1E-19 IS=1E-16
.MODEL J NJF
.MODEL JX NJF IS=1E-16
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQ NMOS VTO=0.5 KP=20E-3 IS=1E-18
.MODEL NMIR NMOS KP=200U VTO=0.7
.MODEL NOUT NMOS KP=2U VTO=0.7
.MODEL NOUTO NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL PMIR PMOS KP=200U VTO=-0.7
.MODEL POUT PMOS KP=2U VTO=-0.7
.MODEL POUTO PMOS KP=200U VTO=-0.7
.MODEL PSD PMOS KP=200U VTO=-5 IS=1E-18
.MODEL PSH1 NMOS VTO=1.7 KP=200U
.MODEL PSH2 NMOS VTO=0.7 KP=20E-3 IS=1E-18
.MODEL Q NPN
.MODEL QMN NPN IS=1E-16
.MODEL QMP PNP IS=1E-16
.MODEL QP PNP
C13 36 60 16E-12
C14 53 55 20E-12
C15 2 0 7E-12
C16 45 0 4E-12
C17 40 0 1E-12
C22 2 45 0.25E-12
C24 59 47 5E-12
C34 82 105 16E-12
C35 98 100 20E-12
C36 3 0 7E-12
C37 90 0 4E-12
C38 14 0 1E-12
C39 3 90 0.25E-12
C40 104 92 5E-12
C43 139 220 2E-9
C44 140 221 2E-9
C45 141 145 2E-12
C46 127 163 16E-12
C47 156 158 22E-12
C48 138 0 4E-12
C49 136 0 4E-12
C50 131 0 1E-12
C51 138 136 0.25E-12
C52 162 150 6E-12
C55 176 178 2E-9
C56 2 3 2E-12
C57 6 0 0.1E-12
D10 43 0 DVN
D11 44 0 DVN
D12 35 38 D
D13 26 35 D
D14 49 24 D
D15 61 51 D
D18 69 66 D
D19 67 68 D
D21 14 23 D
D22 22 14 D
D23 86 0 DIN
D24 87 0 DIN
D25 88 0 DVN
D26 89 0 DVN
D27 81 84 D
D28 72 81 D
D29 94 70 D
D30 106 96 D
D31 114 111 D
D32 112 113 D
D34 131 7 D
D35 4 131 D
D36 132 0 DIN
D37 133 0 DIN
D38 134 0 DVN
D39 135 0 DVN
D40 126 129 D
D41 117 126 D
D42 152 115 D
D43 164 154 D
D44 173 170 D
D45 171 172 D
D46 175 0 D
D47 182 0 D
D48 187 0 D
D49 188 0 D
D6 40 16 D
D7 15 40 D
D8 41 0 DIN
D9 42 0 DIN
E100 129 0 7 0 1
E101 136 137 134 135 3
E102 139 0 129 0 1
E103 140 0 117 0 1
E104 141 0 142 0 1
E105 146 5 145 0 1
E106 149 146 144 0 1.5
E107 138 149 143 0 1.5
E108 150 117 129 117 0.5
E109 148 0 138 0 1
E110 147 0 137 0 1
E111 169 150 158 156 1
E112 129 160 129 173 1
E113 161 117 172 117 1
E114 7 123 7 124 1.3
E115 121 4 125 4 1.3
E116 163 0 131 0 1
E119 176 0 177 0 1
E120 179 0 178 0 8E-6
E121 181 0 2 0 1
E122 180 0 3 0 1
E124 129 184 183 0 1.4
E125 185 117 186 0 1.4
E126 7 10 189 0 -0.597
E127 11 4 189 0 -0.405
E128 7 18 189 0 -0.597
E129 19 4 189 0 -0.405
E59 26 0 15 0 1
E60 38 0 16 0 1
E61 45 46 43 44 0.45
E68 47 26 38 26 0.5
E71 65 47 55 53 1
E72 38 57 38 69 1
E73 58 26 68 26 1
E74 16 32 16 33 100
E75 30 15 34 15 100
E76 60 0 40 0 1
E79 72 0 22 0 1
E80 84 0 23 0 1
E81 90 91 88 89 0.45
E88 92 72 84 72 0.5
E91 110 92 100 98 1
E92 84 102 84 114 1
E93 103 72 113 72 1
E94 23 78 23 79 100
E95 76 22 80 22 100
E96 105 0 14 0 1
E99 117 0 4 0 1
G10 47 68 56 26 1E-3
G11 69 47 38 52 1E-3
G15 3 91 86 87 9E-5
G16 81 92 104 92 0.2E-3
G17 111 92 81 92 -1E-3
G18 92 112 81 92 1E-3
G19 92 113 101 72 1E-3
G20 114 92 84 97 1E-3
G24 138 137 132 133 9E-5
G25 126 150 162 150 0.2E-3
G26 170 150 126 150 -1E-3
G27 150 171 126 150 1E-3
G28 150 172 159 117 1E-3
G29 173 150 129 155 1E-3
G3 2 46 41 42 9E-5
G30 7 4 174 0 -2.93E-3
G33 5 0 179 0 1
G4 35 47 59 47 0.2E-3
G8 66 47 35 47 -1E-3
G9 47 67 35 47 1E-3
I10 0 42 0.1E-3
I11 0 43 0.2E-6
I12 0 44 0.2E-6
I21 0 86 0.1E-3
I22 0 87 0.1E-3
I23 0 88 0.2E-6
I24 0 89 0.2E-6
I26 0 132 0.1E-3
I27 0 133 0.1E-3
I28 0 134 0.2E-6
I29 0 135 0.2E-6
I30 0 175 1E-3
I31 0 14 0 SIN 0 0.095U 180E3
I32 0 5 0 SIN 0 0.095U 360E3
I33 0 182 1M
I34 0 187 1E-3
I35 0 188 1E-3
I36 7 4 1.26E-3
I37 155 159 80E-6
I38 166 117 45E-6
I39 97 101 8E-6
I40 108 72 45E-6
I41 63 26 45E-6
I42 52 56 8E-6
I43 0 2 200E-12
I44 0 3 200E-12
I45 16 15 13E-6
I46 23 22 13E-6
I9 0 41 0.1E-3
J10 167 138 167 J
J11 129 136 129 J
J12 136 168 136 J
J13 138 168 138 J
J2 38 2 38 JX
J3 38 45 38 JX
J4 45 64 45 JX
J5 2 64 2 JX
J6 84 3 84 JX
J7 84 90 84 JX
J8 90 109 90 JX
J9 3 109 3 JX
M50 15 15 12 12 NMIR L=3U W=200U
M51 13 15 12 12 NMIR L=3U W=200U
M52 16 16 9 9 PMIR L=3U W=200U
M53 13 16 9 9 PMIR L=3U W=200U
M54 22 22 20 20 NMIR L=3U W=200U
M55 21 22 20 20 NMIR L=3U W=200U
M56 23 23 17 17 PMIR L=3U W=200U
M57 21 23 17 17 PMIR L=3U W=200U
M58 48 49 34 34 NOUT L=3U W=200U
M59 50 51 33 33 POUT L=3U W=200U
M60 52 52 37 37 POUT L=3U W=200U
M61 53 54 27 27 PIN L=3U W=60U
M62 55 45 29 29 PIN L=3U W=60U
M63 56 56 39 39 NOUT L=3U W=200U
M64 62 63 38 38 PIN L=6U W=500U
M65 63 63 38 38 PIN L=6U W=500U
M67 93 94 80 80 NOUT L=3U W=200U
M68 95 96 79 79 POUT L=3U W=200U
M69 97 97 83 83 POUT L=3U W=200U
M70 98 99 73 73 PIN L=3U W=60U
M71 100 90 75 75 PIN L=3U W=60U
M72 101 101 85 85 NOUT L=3U W=200U
M73 107 108 84 84 PIN L=6U W=500U
M74 108 108 84 84 PIN L=6U W=500U
M76 151 152 125 125 NOUTO L=3U W=200U
M77 153 154 124 124 POUTO L=3U W=200U
M78 155 155 128 128 POUTO L=3U W=200U
M79 156 157 118 118 PIN L=3U W=60U
M80 158 136 120 120 PIN L=3U W=60U
M81 159 159 130 130 NOUTO L=3U W=200U
M82 165 166 129 129 PIN L=6U W=500U
M83 166 166 129 129 PIN L=6U W=500U
Q21 24 25 26 Q
Q22 61 31 38 QP
Q23 70 71 72 Q
Q24 106 77 84 QP
Q25 115 116 117 Q
Q26 164 122 129 QP
R192 27 28 2
R193 29 28 2
R194 25 30 100
R195 31 32 100
R196 33 16 130
R197 15 34 130
R199 35 36 5E3
R200 37 38 130
R201 26 39 130
R212 57 51 100
R213 58 49 100
R214 47 35 500E6
R215 26 53 2.05E3
R216 26 55 2.05E3
R217 40 50 50
R218 48 40 50
R219 65 59 10E3
R221 46 40 1
R222 66 69 100E6
R223 68 67 100E6
R224 69 38 1E3
R225 26 68 1E3
R226 67 47 1E6
R227 68 47 1E6
R228 47 69 1E6
R229 47 66 1E6
R234 46 45 1E9
R235 47 59 1E9
R236 57 38 1E9
R237 26 58 1E9
R240 73 74 2
R241 75 74 2
R242 71 76 100
R243 77 78 100
R244 79 23 130
R245 22 80 130
R247 81 82 5E3
R248 83 84 130
R249 72 85 130
R260 102 96 100
R261 103 94 100
R262 92 81 500E6
R263 72 98 2.05E3
R264 72 100 2.05E3
R265 14 95 50
R266 93 14 50
R267 110 104 10E3
R269 91 14 1
R270 111 114 100E6
R271 113 112 100E6
R272 114 84 1E3
R273 72 113 1E3
R274 112 92 1E6
R275 113 92 1E6
R276 92 114 1E6
R277 92 111 1E6
R282 91 90 1E9
R283 92 104 1E9
R284 102 84 1E9
R285 72 103 1E9
R288 118 119 2
R289 120 119 2
R290 116 121 100
R291 122 123 100
R292 124 7 30
R293 4 125 30
R295 126 127 5E3
R296 128 129 30
R297 117 130 30
R298 4 7 5.11E3
R300 139 143 1E6
R301 140 144 1E6
R302 141 145 1E6
R303 0 143 100
R304 0 144 100
R305 0 145 100
R306 147 142 1E3
R307 142 148 1E3
R308 160 154 100
R309 161 152 100
R310 150 126 500E6
R311 117 156 2.05E3
R312 117 158 2.05E3
R313 131 153 50
R314 151 131 50
R315 169 162 10E3
R317 137 131 1
R318 170 173 100E6
R319 172 171 100E6
R320 173 129 1E3
R321 117 172 1E3
R322 171 150 1E6
R323 172 150 1E6
R324 150 173 1E6
R325 150 170 1E6
R326 0 174 1E6
R327 149 138 1E9
R328 146 149 1E9
R329 5 146 1E9
R330 137 136 1E9
R331 150 162 1E9
R332 160 129 1E9
R333 117 161 1E9
R334 142 0 1E9
R338 176 178 1E6
R339 0 178 100
R340 180 177 1E3
R341 177 181 1E3
R342 0 179 1E9
R343 177 0 1E9
R345 0 183 1E6
R346 0 186 1E6
R347 117 185 1E9
R348 184 129 1E9
R349 0 189 1E6
R350 4 11 1E9
R351 10 7 1E9
R352 18 7 1E9
R353 4 19 1E9
R354 143 220 1E5
R355 144 221 1E5
V37 9 10 0.873
V38 11 12 0.798
V41 13 14 0
V43 17 18 0.873
V44 19 20 0.798
V45 21 5 0
V53 2 54 0
V54 62 28 -1
V57 64 26 0.3
V62 3 99 0
V63 107 74 -1
V66 109 72 0.3
V71 138 157 0
V72 165 119 -1
V74 175 174 0.655
V78 131 6 0 SIN 0 1.048M 90E3
V79 1 40 0 SIN 0 1.048M 90E3
V80 14 8 0 SIN 0 1.048M 90E3
V82 182 183 0.655
V83 187 186 0.655
V84 184 167 0.357
V85 168 185 0.448
V86 188 189 0.655
.ENDS INA326
*
